US06903085B1
4-Chloro-3-fluorobenzaldehyde (0.793 g) and tert-butyl 4-piperidinylcarbamate (1.00 g) were stirred under nitrogen in dried tetrahydrofuran (25 ml). Sodium triacetoxyborohydride (1.266 g) was then added and left for 24 hours. Saturated sodium hydrogen carbonate was added to the reaction, with the resulting solution being extracted three times with dichloromethane. The pooled organic phases were washed once with water, once with brine, dried over magnesium sulfate, filtered and the solvent removed under reduced pressure to leave tert-butyl 1-(4-chloro-3-fluorobenzyl)-4-piperidinylcarbamate (1.80 g) as a white solid.

reactant | 4-Chloro-3-fluorobenzaldehyde | 0.793 g | ClC1=C(C=C(C=O)C=C1)F | C7H4ClFO
reactant | tert-butyl 4-piperidinylcarbamate | 1.00 g | N1CCC(CC1)NC(OC(C)(C)C)=O | C10H20N2O2
reactant | Sodium triacetoxyborohydride | 1.266 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
product | tert-butyl 1-(4-chloro-3-fluorobenzyl)-4-piperidinylcarbamate | 1.80 g | ClC1=C(C=C(CN2CCC(CC2)NC(OC(C)(C)C)=O)C=C1)F | C17H24ClFN2O2
